US08420655B2
5-[1-tert-Butyl-2-(2-1,2,4-triazol-1-yl-phenyl)-1H-benzimidazol-5-yl]-4-methoxy-pyrimidin-2-ylamine
To a round bottom flask is added 4-(2-amino-4-methoxy-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine (118 mg, 0.411 mmol) in DMF (4 mL) and water (1 mL), followed by the addition of 2-1,2,4-triazol-1-yl-benzaldehyde (78 mg, 0.45 mmol) and oxone (51 mg, 0.443 mmol). The reaction mixture is stirred at room temperature for 4 hours. Sat. sodium thiosulfate (10 mL) is added. The reaction mixture is diluted with EtOAc. The organic layer is separated, washed with water then brine, dried with Na2SO4, filtered and concentrated. The residue is loaded into a silica gel column. The column is eluted with 0-4% 7M NH3 in MeOH/CH2Cl2. The product fractions are collected and concentrated to afford the title compound (67 mg, 37%) as a light brown solid. LCMS (ESMS): m/z 441.73 (M++1)

reactant | 4-(2-amino-4-methoxy-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine | 0.411 mmol, 118 mg | NC1=NC=C(C(=N1)OC)C=1C=C(C(=CC1)NC(C)(C)C)N | C15H21N5O
reactant | 2-1,2,4-triazol-1-yl-benzaldehyde | 0.45 mmol, 78 mg | N1(N=CN=C1)C1=C(C=O)C=CC=C1 | C9H7N3O
reactant | oxone | 0.443 mmol, 51 mg | OOS(=O)[O-].[K+]
reactant | sodium thiosulfate | 10 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | 1 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-[1-tert-Butyl-2-(2-1,2,4-triazol-1-yl-phenyl)-1H-benzimidazol-5-yl]-4-methoxy-pyrimidin-2-ylamine | 67 mg, 37% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C(=NC(=NC2)N)OC)C2=C(C=CC=C2)N2N=CN=C2 | C24H24N8O
